US08193378B2
7-(benzyloxy)-2,3-dihydro-4H-chromen-4-one was dissolved in THF, a solution (0.97 M, 5 mL) of methylmagnesium bromide in THF was added dropwise thereto at 0° C., followed by stirring at room temperature for 1 hour, and a solution (0.97 M, 5 mL) of methylmagnesium bromide in THF was added dropwise thereto, followed by stirring at room temperature for 2 hours. To the reaction liquid was added a saturated aqueous NH4Cl solution and subsequently 2 M hydrochloric acid (20 mL), followed by stirring at room temperature for 2 hours and then extracting with EtOAc three times. The organic layer was combined, washed with water and brine, dried over MgSO4, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (automatic purification device, hexane:EtOAc=95:5 to 90:10) to obtain 7-(benzyloxy)-4-methyl 2H-chromene (445 mg) as a colorless transparent liquid.

reactant | 7-(benzyloxy)-2,3-dihydro-4H-chromen-4-one | C(C1=CC=CC=C1)OC1=CC=C2C(CCOC2=C1)=O | C16H14O3
reactant | methylmagnesium bromide | 0.97 M, 5 mL | C[Mg]Br
reactant | methylmagnesium bromide | 0.97 M, 5 mL | C[Mg]Br
reactant | NH4Cl | [NH4+].[Cl-]
reactant | hydrochloric acid | 2 M, 20 mL | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | 7-(benzyloxy)-4-methyl 2H-chromene | 445 mg | C(C1=CC=CC=C1)OC1=CC=C2C(=CCOC2=C1)C | C17H16O2
